US07078570B2
Synthesis of 1,3-dimethyl-3-(3-methyl-but-2-enyl)-bicyclo[4.1.0]heptan-2-one
Sodium hydride (60%, 2.11 g, 52.8 mmol) was added to a suspension of trimethylsulfoxonium iodide (11.6 g, 52.8 mmol) in 60 ml of dimethyl sulfoxide. The mixture was stirred for 30 min until hydrogen evolution stopped. 2,6-Dimethyl-6-(3-methyl-but-2-enyl)-cyclohex-2-enone was added and the mixture was stirred over night at room temperature, was then diluted with water and extracted with pentane. The organic phase was washed with water and brine, dried (MgSO4) and concentrated in vacuo. The residue was distilled (bp.95° C./0.05 Torr) to yield 4.5 g (83%) of product as a mixture of two diastereomers. 1H-NMR (200 MHz, CDCl3): 5.11-4.93 (m, 1H, 2′-H), 2.45-1.32 (m, 7H), 1.75/1.70 (2s, 3H, 4′H), 1.63/1.59 (2s, 3H, 3′-CH3), 1.31-1.16 (m, 1H), 1.23/1.21 (2s, 3H), 1.01/0.99 (2s, 3H), 0.75-0.64 (m, 1H) ppm. GC/MS (EI): 206 (M+, 12), 191 (14), 163 (20), 138 (90), 123 (100), 109 (34), 95 (57), 69 (62), 41 (94). IR (ATR): 2962s, 2928s, 2866s, 1681vs, 1451s, 1375m, 1043m, 1000m cm−1.

reactant | Sodium hydride | 52.8 mmol, 2.11 g | [H-].[Na+]
reactant | trimethylsulfoxonium iodide | 52.8 mmol, 11.6 g | [I-].C[S+](=O)(C)C
reactant | hydrogen | [H][H] | H2
reactant | 2,6-Dimethyl-6-(3-methyl-but-2-enyl)-cyclohex-2-enone | CC=1C(C(CCC1)(CC=C(C)C)C)=O | C13H20O
solvent | dimethyl sulfoxide | 60 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 1,3-dimethyl-3-(3-methyl-but-2-enyl)-bicyclo[4.1.0]heptan-2-one | 4.5 g, 83% | CC12C(C(CCC2C1)(CC=C(C)C)C)=O | C14H22O
